US08124606B2
Compound 10: (S)-N-ethyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide:
To a suspension of (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (0.8 g, 3.65 mmol)) in propiononitrile (Volume: 27.4 ml) was added (cyanomethyl)trimethylphosphonium iodide (1.064 g, 4.38 mmol), N-ethyl-4-(piperazin-1-yl)benzamide (0.851 g, 3.65 mmol) and DIEA (1.912 ml, 10.95 mmol). The vial was heated to 90° C. for 16 hours. The crude reaction was cooled to RT, DMSO (1 ml) was added, and the mixture was purified via HPLC (55-90, basic) to give the product as a white solid.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 3.65 mmol, 0.8 g | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 4.38 mmol, 1.064 g | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-4-(piperazin-1-yl)benzamide | 3.65 mmol, 0.851 g | C(C)NC(C1=CC=C(C=C1)N1CCNCC1)=O | C13H19N3O
reactant | DIEA | 10.95 mmol, 1.912 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | propiononitrile | 27.4 ml | C(CC)#N | C3H5N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | (S)-N-ethyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | C(C)NC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O)=O | C24H30N6O2
